US07524847B2
4-(9-Methyl-9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester
Potassium carbonate (1.52 g) and methyl iodide (0.94 mL) were added to a solution of 4-(9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester (3.04 g) in N,N-dimethylformamide (100 mL), and this was stirred at room temperature for 16 hours. Ethyl acetate (300 mL) and water (100 mL) were added, the organic layer was washed twice with 100 mL of water and then once with 100 mL of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The organic layer was filtered, and concentrated under reduced pressure to give the title compound (2.70 g).

reactant | Potassium carbonate | 1.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.94 mL | CI | CH3I
reactant | 4-(9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester | 3.04 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=CNC2=NC=N1 | C14H20N6O2
reactant | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-(9-Methyl-9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester | 2.70 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=CN(C2=NC=N1)C | C15H22N6O2
